US04663332
Phosphorus pentachloride (2.80 g) was added in portions to a stirred solution of 5.0 g 3-[(4-acetyl-3-hydroxy-2-propylphenoxy)methyl]-N-[3-(3-pyridinyl)propyl]benzamide in 100 mL of anhydrous chloroform at 3°. The reaction mixture was stirred at 3° for an additional 0.25 hr and 25° for 1.75 hr. To this yellow solution stirred at 25° was added dropwise 22 mL of 1.1M hydrazoic acid in chloroform. The reaction was stirred at 25° for 24 hr and then an additional 22.2 mL of 1.1M hydrazoic acid/chloroform solution was added. After stirring for 24 hr at 25° and refluxing for 10 hr, the reaction mixture was washed with saturated sodium bicarbonate solution, dried (magnesium sulfate) and concentrated in vacuo to an oil which was purified by high pressure liquid chromatography. Elution with triethylamine (1.5):ethyl acetate (98.5) gave 1-[5-chloro-2-hydroxy-3-propyl-4-[[3-[1-[3-(3-pyridinyl)propyl]-1H-tetrazol-5-yl]phenyl]methoxy]phenyl]ethanone.

reactant | Phosphorus pentachloride | 2.80 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 3-[(4-acetyl-3-hydroxy-2-propylphenoxy)methyl]-N-[3-(3-pyridinyl)propyl]benzamide | 5.0 g | C(C)(=O)C1=C(C(=C(OCC=2C=C(C(=O)NCCCC=3C=NC=CC3)C=CC2)C=C1)CCC)O | C27H30N2O4
reactant | hydrazoic acid | 1.1M, 22 mL | N=[N+]=[N-] | HN3
reactant | hydrazoic acid chloroform | 1.1M, 22.2 mL | N=[N+]=[N-].C(Cl)(Cl)Cl
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-[5-chloro-2-hydroxy-3-propyl-4-[[3-[1-[3-(3-pyridinyl)propyl]-1H-tetrazol-5-yl]phenyl]methoxy]phenyl]ethanone | ClC=1C(=C(C(=C(C1)C(C)=O)O)CCC)OCC1=CC(=CC=C1)C1=NN=NN1CCCC=1C=NC=CC1 | C27H28ClN5O3
